US08937060B2
1-Benzyl-4-[4-fluoro-2-(1-hydroxy-1-methyl-ethyl)-phenyl]-4-hydroxypiperidine (D83)
To an anhydrous THF (50 mL) cooled at −70° C. stirred under nitrogen a 2.5 M solution of n-BuLi (4.22 mL, 10.54 mmol) was added. Then 2-bromo-5-fluoro-α,α-dimethyl-benzylalcohol (1.17 g, 5.02 mmol) [C.A.S.853271-16-6] was added dropwise. The resulting mixture was stirred at −70° C. for 2 h. Then a solution of 1-benzylpiperidin-4-one (1.33 g, 7.028 mmol) in anhydrous THF (10 ml) was added dropwise. Then, the resulting solution was stirred at r.t. overnight. The reaction mixture was poured into NH4Cl (aqueous sat. solution) at 5-10° C. The resulting aqueous solution was extracted with DCM. The organic layer was separated and concentrated in vacuo. The residue was purified by column chromatography (silica gel; heptane/EtOAc from 100/0 to 60/40 as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate D83 (0.4 g, 23%).

reactant | n-BuLi | 10.54 mmol, 4.22 mL | [Li]CCCC
reactant | 2-bromo-5-fluoro-α,α-dimethyl-benzylalcohol | 5.02 mmol, 1.17 g | BrC1=C(C(C)(C)O)C=C(C=C1)F | C9H10BrFO
reactant | 1-benzylpiperidin-4-one | 7.028 mmol, 1.33 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-[4-fluoro-2-(1-hydroxy-1-methyl-ethyl)-phenyl]-4-hydroxypiperidine | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=C(C=C1)F)C(C)(C)O | C21H26FNO2
